US04859562
166 g (1.2 mol) of allylmethylphosphinic acid chloride were dissolved in 300 ml of acetonitrile and heated with 78 g (1.2 mol) of sodium cyanate to 50°-55° C. while stirring. After 5.5 hours, the precipitate was filtered off by suction and washed with acetonitrile. The filtrate was then concentrated and the residue distilled at a temperature of 78°-80° C. and at a pressure of 25 Pa. 123 g of allylmethylphosphinic acid isocyanate (71% of theory) were obtained.

reactant | allylmethylphosphinic acid chloride | 1.2 mol, 166 g | C(C=C)CP(=O)Cl | C4H8ClOP
reactant | sodium cyanate | 1.2 mol, 78 g | [O-]C#N.[Na+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | allylmethylphosphinic acid isocyanate | 123 g, 71% | C(C=C)CP(=O)N=C=O | C5H8NO2P
